US06756378B2
To a stirred solution of 4-iodo-2-methylphenol (465 mg, 1.987 mmol), N-tert-butoxycarbonylprolinol (400 mg, 1.987 mmol), and Ph3P (625 mg, 2.384 mmol) in THF (7 mL) was added dropwise DIAD (0.5 mL, 2.404 mmol) at room temp, and the mixture was stirred for 13 hr at 70° C. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silica-gel with n-hexane-EtOAc (9:1, v/v) as eluent to give 645.3 mg (78%) 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-1-iodo-3-methylbenzene as a pale yellow oil. 1H-NMR (400 MHz, CDCl3) δ1.47 (s, 9H), 1.83-1.89 (m, 1H), 1.96-2.04 (m, 3H), 2.16 (s, 3H), 3.37-3.43 (br m, 2H), 3.81, 3.94 (br m each, 1H), 4.08-4.18 (m, 2H), 6.62 (br s, 1H), 7.42 (s, 2H); MS (FAB) m/z 418 (M++1).

reactant | 4-iodo-2-methylphenol | 1.987 mmol, 465 mg | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | N-tert-butoxycarbonylprolinol | 1.987 mmol, 400 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 2.384 mmol, 625 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.404 mmol, 0.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-1-iodo-3-methylbenzene | 645.3 mg, 78% | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=C(C=C(C=C1)I)C | C17H24INO3
